US04254122
A mixture of 3-(thien-2-yl)-6-isobutylamino-tetrahydro-1,3,5-triazine-2,4-dione (1.4 g.) and acetic anhydride (10 ml.) was heated under reflux for 4 hours. The mixture was then distilled to half volume at atmospheric pressure, cooled to room temperature, and diluted with water (20 ml.). The solid which formed was separated by filtration, washed with water, and then crystallised from ethanol to give 3-(thien-2-yl)-6-[N-(acetyl)isobutylamino]-tetrahydro-1,3,5-triazine-2,4-dione as a white solid (0.6 g., 37%), m.p. 138°-139° C.

reactant | 3-(thien-2-yl)-6-isobutylamino-tetrahydro-1,3,5-triazine-2,4-dione | 1.4 g | S1C(=CC=C1)N1C(NC(NC1=O)NCC(C)C)=O | C11H16N4O2S
reactant | acetic anhydride | 10 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 3-(thien-2-yl)-6-[N-(acetyl)isobutylamino]-tetrahydro-1,3,5-triazine-2,4-dione | S1C(=CC=C1)N1C(NC(NC1=O)N(C(C)=O)CC(C)C)=O | C13H18N4O3S
